US07361654B2
5-[1-(4-bromophenyl)-1-methylethyl]-1H-1,2,4-triazol-3-amine
To a stirred mixture of N-aminoguanidine nitrate (2.1 g, 15 mmol) and anhydrous methanol (18 mL) cooled to 0° C. was added sodium methoxide solution (25% in methanol, 3.4 mL, 15 mmol) dropwise. The resulting mixture was stirred at 0° C. for 10 min before methyl 2-(4-bromophenyl)-2-methylpropanoate (1.0 g, 3.9 mmol) was added. The mixture was then stirred at 0° C. for 10 min, RT for 10 min, and 75 ° C. for 6 days. The reaction mixture was cooled and diluted with 20 mL of water. Methanol was removed under vacuum and the aqueous solution was acidified to pH=3-4 with 3 N aqueous HCl solution and extracted with ethyl acetate. The ethyl acetate layer was dried (Na2SO4) and concentrated. Silica gel flash chromatography purification gave 330 mg (31% yield) of the title compound as a yellow solid. (M+H)+=281.14

reactant | N-aminoguanidine nitrate | 15 mmol, 2.1 g | [N+](=O)(O)[O-].NNC(=N)N
reactant | methanol | 18 mL | CO | CH4O
reactant | sodium methoxide | 15 mmol, 3.4 mL | C[O-].[Na+]
reactant | methyl 2-(4-bromophenyl)-2-methylpropanoate | 3.9 mmol, 1.0 g | BrC1=CC=C(C=C1)C(C(=O)OC)(C)C | C11H13BrO2
solvent | water | 20 mL | O | H2O
product | 5-[1-(4-bromophenyl)-1-methylethyl]-1H-1,2,4-triazol-3-amine | 330 mg, 31% yield | BrC1=CC=C(C=C1)C(C)(C)C1=NC(=NN1)N | C11H13BrN4
